US05789428
Preparation of N1 [(R)-1-(6-Fluoro-2-benzothiazolyl)ethyl]-N2 -isopropoxycarbonyl-L-valinamide (Compound No. 4)
0.4 g of N-methylpiperidine was added to a solution containing 0.8 g of N-isopropoxycarbonyl-L-valine dissolved in 25 ml of methylene chloride, at -20° C. After the mixture was stirred for 10 minutes at the same temperature, 0.6 g of isobutyl chloroformate was added to the mixture at -20° C., and stirred for 1 hour at -20° C.~-10° C. After 0.8 g of (R)-1-(6-fluoro-2-benzothiazolyl)ethylamine was added to this mixture at -60° C., the refrigerant was put off, and then the reaction mixture was warmed naturally to room temperature while being stirred. After completion of the reaction, the resulting mixture was washed successively with water, a 5% aqueous solution of sodium bicarbonate, and water. The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained crude crystals were purified by column chromatography on silica gel, thus yielding 0.95 g of the desired product in the form of a white powder (yield: 63%).

reactant | N-methylpiperidine | 0.4 g | CN1CCCCC1 | C6H13N
reactant | N-isopropoxycarbonyl-L-valine | 0.8 g | C(C)(C)OC(=O)N[C@@H](C(C)C)C(=O)O | C9H17NO4
reactant | isobutyl chloroformate | 0.6 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | (R)-1-(6-fluoro-2-benzothiazolyl)ethylamine | 0.8 g | FC1=CC2=C(N=C(S2)[C@@H](C)N)C=C1 | C9H9FN2S
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | [(R)-1-(6-Fluoro-2-benzothiazolyl)ethyl]-N2 -isopropoxycarbonyl-L-valinamide | 0.95 g | FC1=CC2=C(N=C(S2)[C@@H](C)N([C@@H](C(C)C)C(=O)N)C(=O)OC(C)C)C=C1 | C18H24FN3O3S
